US06753358B2
Poly(propylene fumarate) was synthesized following a two step procedure [11]. First, 1 mole of diethyl fumarate (Acros Organics, Pittsburgh, Pa.) and 3 moles of 1,2 propanediol (Acros Organics) were reacted using 0.01 moles ZnCl2 (Fisher Chemicals, Fair Lawn, N.J.) as a catalyst and 0.002 moles hydroquinone (Acros Organics) as a radical inhibitor. The reaction was run under a nitrogen blanket, producing bis(hydroxypropyl) fumarate as the main product and ethanol as a byproduct. Second, the bis(hydroxypropyl) fumarate was transesterified, producing poly(propylene fumarate) and 1,2 propanediol as a byproduct.

reactant | diethyl fumarate | 1 mole | C(\C=C\C(=O)OCC)(=O)OCC | C8H12O4
reactant | 1,2 propanediol | 3 moles | C(C(C)O)O | C3H8O2
reactant | hydroquinone | 0.002 moles | C1(O)=CC=C(O)C=C1 | C6H6O2
catalyst | ZnCl2 | 0.01 moles | [Cl-].[Cl-].[Zn+2]
solvent | ethanol | C(C)O | C2H6O
product | bis(hydroxypropyl) fumarate | C(\C=C\C(=O)OCCCO)(=O)OCCCO | C10H16O6
